US05536737
e) (R)-4-[3-(tert-Butyldimethylsilyloxy)-1-oxopropyl]-3-[[(S)-1-(phenylmethyloxycarbonyl)-2-pyrrolidinyl]carbonyl]thiazolidine
(R)-4-[3-(tert-Butyldimethylsilyloxy)-1-hydroxypropyl]-3[[(S)-1-(phenylmethyloxycarbonyl)-2-pyrrolidinyl]carbonyl]thiazolidine (1.44 g) was subjected to the same reaction as in Example 20-e) to give the title compound (701 mg).

reactant | (R)-4-[3-(tert-Butyldimethylsilyloxy)-1-hydroxypropyl]-3[[(S)-1-(phenylmethyloxycarbonyl)-2-pyrrolidinyl]carbonyl]thiazolidine | 1.44 g | [Si](C)(C)(C(C)(C)C)OCCC(O)[C@H]1N(CSC1)C(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C25H40N2O5SSi
reactant | 20-e | C[C@]12CC[C@H]3C(=CC(=O)[C@H]4[C@@]3(C[C@@H]([C@@H](C4)O)O)C)[C@@]1(CC[C@@H]2[C@](C)([C@@H](CCC(C)(C)O)O)O)O | C27H44O7
product | (R)-4-[3-(tert-Butyldimethylsilyloxy)-1-oxopropyl]-3-[[(S)-1-(phenylmethyloxycarbonyl)-2-pyrrolidinyl]carbonyl]thiazolidine | 701 mg | [Si](C)(C)(C(C)(C)C)OCCC(=O)[C@H]1N(CSC1)C(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C25H38N2O5SSi
